US04675390
Preparation of Methyl 2-Deoxy-3-n-hexadecyl-D-ribofuranoside
A solution of 1.365 g of methyl 2-deoxy-3-n-hexadecyl-5-trityl-D-ribofuranoside in 11.1 ml of methylene dichloride were placed in a 50 ml round-bottomed flask. 11.1 ml of MeOH were added with stirring at room temperature followed by 42.7 mg of p-toluene sulfonic acid monohydrate. After 4 hours, TLC (SiO2 ; 3:1 cyclohexane/ether or 5:1 cyclohexane/ethyl acetate) indicated reaction was substantially complete. The reaction mixture was then diluted with methylene dichloride, and the organic solution extracted with an equal volume of 0.1N aqueous sodium hydroxide (pH=12.1). The sodium hydroxide extract was washed with methylene dichloride. The methylene dichloride extracts were combined, washed with brine and dried. Evaporation of the solvent yields a solid residue which was purified by chromatography over SiO2. The solid residue was loaded onto the SiO2 column as a chloroform solution, and the column was eluted with a cyclohexane containing increasing amounts of ethyl acetate (0-20%). Two major fractions were obtained. The faster moving (first to be eluted) fraction was β-methyl 2-deoxy-3-n-hexadecyl-D-ribofuranoside (349.6 mg) and the slower moving (last to be eluted) fraction was α-methyl 2-deoxy-3-n-hexadecyl-D-ribofuranoside.

reactant | methyl 2-deoxy-3-n-hexadecyl-5-trityl-D-ribofuranoside | 1.365 g | C(CCCCCCCCCCCCCCC)[C@@]1(CC(OC)O[C@@H]1C(O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C41H58O4
reactant | MeOH | 11.1 ml | CO | CH4O
reactant | p-toluene sulfonic acid monohydrate | 42.7 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | cyclohexane ether | C1CCCCC1.CCOCC
solvent | methylene dichloride | 11.1 ml | C(Cl)Cl | CH2Cl2
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | Methyl 2-Deoxy-3-n-hexadecyl-D-ribofuranoside | C(CCCCCCCCCCCCCCC)[C@@]1(CC(OC)O[C@@H]1CO)O | C22H44O4
